US04698352
In 25 ml of methylene chloride were dissolved 3.1 g of 2-naphthaldehyde and 9.4 g of [2-methoxy-3-(methoxycarbonyl)allyl]triphenylphosphonium bromide, followed by addition thereto of 19 ml of a 50% by weight aqueous sodium hydroxide solution with stirring at room temperature, and the mixture was subjected to reaction at the same temperature for 20 minutes. After completion of the reaction, the methylene chloride layer was separated from the reaction mixture and washed with water. It was then dried with anhydrous sodium sulfate, and the solvent was removed by distillation under reduced pressure. To the residue was added 30 ml of diethyl ether, and the insolubles were removed by filtration, after which the filtrate was concentrated to obtain an oily substance. This oily substance was dissolved in a mixed solvent of 45 ml of dioxane and 40 ml of 0.1N sulfuric acid, and the solution was refluxed for 30 minutes. Then the reaction mixture was cooled to room temperature, extracted with 100 ml of ethyl acetate and the extract was dried with anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure, and the formed crystals were suspended in 50 ml of benzene, and to the suspension was added 2.4 g of N,N-dimethylformamidodimethylacetal, and the resulting mixture was subjected to reaction at 60° C. for 30 minutes. The reaction mixture was cooled to room temperature, and 2.2 g of p-aminophenol was added thereto. The mixture was subjected to reaction at the same temperature for 2 hours. The precipitated crystals were collected by filtration, washed with 5 ml of benzene and dried to obtain 1.7 g of methyl 2-(4-hydroxyphenylaminomethylene)-5-(2-naphthyl)-3-oxo-4-pentenoate having a melting point of 191°-192.5° C.

reactant | 2-naphthaldehyde | 3.1 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | [2-methoxy-3-(methoxycarbonyl)allyl]triphenylphosphonium bromide | 9.4 g | [Br-].COC(C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=CC(=O)OC
reactant | sodium hydroxide | [OH-].[Na+]
reactant | p-aminophenol | 2.2 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 45 ml | O1CCOCC1 | C4H8O2
solvent | sulfuric acid | 0.1N, 40 ml | S(O)(O)(=O)=O | H2O4S
product | methyl 2-(4-hydroxyphenylaminomethylene)-5-(2-naphthyl)-3-oxo-4-pentenoate | 1.7 g | OC1=CC=C(C=C1)NC=C(C(=O)OC)C(C=CC1=CC2=CC=CC=C2C=C1)=O | C23H19NO4
